US08008298B2
To a flask charged with 2-Bromo-6-methyl-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid ethyl ester (360 mg, 1.26 mmol), 3,4,5-trimethoxyphenylboronic acid (320 mg, 1.51 mMol), Pd(dppf)Cl2 (31 mg, 0.038 mmol) was added K2CO3 (520 mg, 3.75 mmol). The mixture was heated to 100° C. overnight. The reaction mixture was cooled, diluted with EtOAc and filtered over celite. The solution was washed with water and brine, dried over Na2SO4, filtered, and concentrated. Flash chromatography afforded 105 mg of 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid ethyl ester.

reactant | 2-Bromo-6-methyl-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid ethyl ester | 1.26 mmol, 360 mg | C(C)OC(=O)C1=C(NC2=NC=C(N=C21)Br)C | C10H10BrN3O2
reactant | 3,4,5-trimethoxyphenylboronic acid | 1.51 mMol, 320 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | K2CO3 | 3.75 mmol, 520 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.038 mmol, 31 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-Methyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid ethyl ester | 105 mg | C(C)OC(=O)C1=C(NC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)C | C19H21N3O5
